US04182758
A solution of tosyl chloride (156.7 g) in pyridine (240 ml) was added dropwise to a solution of p-methoxybenzyloxyamine (102.3 g) in pyridine (210 ml) for 2.5 hours under cooling at 0°~5° C. and the mixture was stirred overnight at ambient temperature. The solvent was distilled off under reduced pressure and the residue was dissolved in ethyl acetate (1 l). The insoluble substances were filtered off, and the filtrate was washed three times with 2N hydrochloric acid, twice with water, dried over magnesium sulfate and evaporated to dryness under reduced pressure to give crystalline product, which was recrystallized from a mixture of ethylacetate and petroleum ether to give N-(p-methoxybenzyloxy)-p-toluenesulfonamide (162.2 g) in the form of crystals.

reactant | tosyl chloride | 156.7 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | p-methoxybenzyloxyamine | 102.3 g | COC1=CC=C(CON)C=C1 | C8H11NO2
solvent | pyridine | 240 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 210 ml | N1=CC=CC=C1 | C5H5N
product | N-(p-methoxybenzyloxy)-p-toluenesulfonamide | 162.2 g | COC1=CC=C(CONS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C15H17NO4S
